US08232326B2
Synthesis of 2-((4-fluoro-2-nitrophenyl)diazenyl)-6-(hydroxymethyl)-4-methoxyphenol
In a 500 ml round bottom flask equipped with a magnetic stirrer was added 25.1 g (161 mmol) 4-fluoro-2-nitroaniline (Aldrich), HCl(aq) (J.T. Baker), 100 ml deionized water, and 100 ml absolute ethanol. The suspension was cooled to 0° C. 11.8 g (171 mmol) Sodium nitrite (Sigma-Aldrich) in 50 ml water was added dropwise over 60 minutes while keeping the reaction mixture at 0° C. The reaction mixture was stirred for an additional 1 hour. 420 mg sulfamic acid (Aldrich) was added and the reaction mixture was stirred for an additional 30 minutes and then filtered. In a 1 liter round bottom flask was combined 32.5 g (176 mmol) (2-hydroxy-5-methoxy-1,3-phenylene)dimethanol, 200 ml deionized water, and 200 ml ethanol. 32.3 g (807 mmol) NaOH (Aldrich) was dissolved in 100 ml water and approximately one-fourth of this was added to the solution containing the phenol derivative at 0° C. The diazonium salt solution and remaining sodium hydroxide solution were added dropwise to the reaction mixture at 0° C. over a 1 hour period and then allowed to stir for an additional 1 hour at 0° C. and 3 hours at ambient temperature. The reaction mixture was poured into 3 liters water and the pH was adjusted to 4 using 1N HCl. The solid was collected by filtration, washed with several liters of water, and vacuum dried (0.1 mm Hg) at 55° C. for 72 hours using P2O5 as drying agent to afford 29.9 g (68%) of a dark solid which was used in the next step without further purification.

reactant | 4-fluoro-2-nitroaniline | 161 mmol, 25.1 g | FC1=CC(=C(N)C=C1)[N+](=O)[O-] | C6H5FN2O2
reactant | HCl | Cl | ClH
reactant | Sodium nitrite | 171 mmol, 11.8 g | N(=O)[O-].[Na+]
reactant | (2-hydroxy-5-methoxy-1,3-phenylene)dimethanol | 176 mmol, 32.5 g | OC1=C(C=C(C=C1CO)OC)CO | C9H12O4
reactant | NaOH | 807 mmol, 32.3 g | [OH-].[Na+]
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | HCl | 1N | Cl | ClH
solvent | water | 50 ml | O | H2O
solvent | water | 100 ml | O | H2O
catalyst | sulfamic acid | 420 mg | S(N)(O)(=O)=O | H3NO3S
solvent | water | 3 liters | O | H2O
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-((4-fluoro-2-nitrophenyl)diazenyl)-6-(hydroxymethyl)-4-methoxyphenol | 29.9 g, 68% | FC1=CC(=C(C=C1)N=NC1=C(C(=CC(=C1)OC)CO)O)[N+](=O)[O-] | C14H12FN3O5
